US03974286
3-amino-4-methyl-2-trifluoroacetyliminobenzothiazoline
A 1.8 g. portion of 3-amino-2-imino-4-methylbenzothiazoline was slurried in about 50 ml. of tetrahydrofuran, and 1.5 g. of triethylamine was added. The reaction mixture was then cooled as above, and 2.3 g. of trifluoroacetic anhydride was added dropwise. The reaction mixture was stirred at ice bath temperature for about 4 hours after completion of the addition, and the reaction mixture was then worked up as described in Example 2. The product was not recrystallized, and the yield was 2.6 g. of 3-amino-4-methyl-2-trifluoroacetyliminobenzothiazoline, m.p. 160°-61°C. The elemental microanalysis was as follows.

reactant | 3-amino-2-imino-4-methylbenzothiazoline | NN1C(SC2=C1C(=CC=C2)C)=N | C8H9N3S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-amino-4-methyl-2-trifluoroacetyliminobenzothiazoline | NN1C(SC2=C1C(=CC=C2)C)=NC(C(F)(F)F)=O | C10H8F3N3OS
